US04415580
The above preparation was also carried out using ammonium acetate in place of formamidine acetate as follows: A mixture containing 1.305 kg of 1,2-dihydro-6-(2-dimethylaminoethenyl)-2-oxo-3-pyridinecarbonitrile, 9 liters of dimethylformamide and 915 g of ammonium acetate was refluxed for five hours. The reaction suspension was cooled to 5° C. for three hours and the precipitated product was collected, washed twice with cold 60/40 by volume of dimethylformamide/water, twice with cold ethanol, once with ether and dried to yield 826 g of 1,2-dihydro-5-methyl-2-oxo-1,6-naphthyridine-3-carbonitrile, m.p. 275°-277° C.

reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
reactant | 1,2-dihydro-6-(2-dimethylaminoethenyl)-2-oxo-3-pyridinecarbonitrile | 1.305 kg | CN(C=CC1=CC=C(C(N1)=O)C#N)C | C10H11N3O
reactant | ammonium acetate | 915 g | C(C)(=O)[O-].[NH4+]
solvent | dimethylformamide | 9 liters | CN(C=O)C | C3H7NO
product | 1,2-dihydro-5-methyl-2-oxo-1,6-naphthyridine-3-carbonitrile | 826 g | CC1=C2C=C(C(NC2=CC=N1)=O)C#N | C10H7N3O
